US07786157B2
In a 4 mL vial was taken 100 mg of 3-(3-chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one (0.31 mmol, 1.00 eq), 52 mg of 3-chloro-4-methylbenzoic acid (0.31 mmol, 1.00 eq), 163 mg BOP (0.37 mmol, 1.20 eq), 171 uL (1.23 mmol, 4.00 eq), and 1.5 mL NMP. The mixture was stirred overnight at room temperature and the crude product was purified by reversed phase HPLC (acetonitrile —H2O with 0.1% TFA as the eluent) to yield 3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-N-(2-methoxy-ethyl)-4-methyl-benzamide. MS (ES) M+H expected=478.0, found=478.1.

reactant | 3-(3-chloro-2-methyl-phenyl)-1-[2-(2-methoxy-ethylamino)-acetyl]-imidazolidin-4-one | 0.31 mmol, 100 mg, 1.00 eq | ClC=1C(=C(C=CC1)N1CN(CC1=O)C(CNCCOC)=O)C | C15H20ClN3O3
reactant | 3-chloro-4-methylbenzoic acid | 0.31 mmol, 52 mg, 1.00 eq | ClC=1C=C(C(=O)O)C=CC1C | C8H7ClO2
reactant | BOP | 0.37 mmol, 163 mg, 1.20 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 3-chloro-N-{2-[3-(3-chloro-2-methyl-phenyl)-4-oxo-imidazolidin-1-yl]-2-oxo-ethyl}-N-(2-methoxy-ethyl)-4-methyl-benzamide | ClC=1C=C(C(=O)N(CCOC)CC(=O)N2CN(C(C2)=O)C2=C(C(=CC=C2)Cl)C)C=CC1C | C23H25Cl2N3O4
